US07423030B2
41.1. 5-methoxy-2-(2-phenoxyacetyl)benzoic acid
This compound is synthesized according to the method described in 3.2. by reacting 2-bromo-5-methoxybenzoic acid pretreated with n-butyllithium with N-methoxy-N-methyl-2-phenoxyacetamide. The product is used in crude form in the following reaction.

reactant | 2-bromo-5-methoxybenzoic acid | BrC1=C(C(=O)O)C=C(C=C1)OC | C8H7BrO3
reactant | n-butyllithium | C(CCC)[Li]
reactant | N-methoxy-N-methyl-2-phenoxyacetamide | CON(C(COC1=CC=CC=C1)=O)C | C10H13NO3
product | 5-methoxy-2-(2-phenoxyacetyl)benzoic acid | COC=1C=CC(=C(C(=O)O)C1)C(COC1=CC=CC=C1)=O | C16H14O5
